US09416132B2
To a solution of tert-butyl((trans-4-carbamoylcyclohexyl)methyl)carbamate (1.7 g, 6.6 mmol) in CH2Cl2 (33 mL) was added DBU (3 g, 19.8 mmol) at room temperature. After stirring for 10 min, ethyl dichlorophosphate (2.2 g, 13.2 mmol) was added. The mixture was stirred at room temperature for 50 min. TLC (CH2Cl2:MeOH=10:1) showed the reaction was complete. The mixture was poured into sat. NH4Cl (aq., 150 mL) and extracted with CH2Cl2 (100 mL*2). The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by combi flash to give tert-butyl((trans-4-cyanocyclohexyl)methyl)carbamate (1.4 g, 88%) as a white solid.

reactant | tert-butyl((trans-4-carbamoylcyclohexyl)methyl)carbamate | 6.6 mmol, 1.7 g | C(C)(C)(C)OC(NC[C@@H]1CC[C@H](CC1)C(N)=O)=O | C13H24N2O3
reactant | DBU | 19.8 mmol, 3 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | ethyl dichlorophosphate | 13.2 mmol, 2.2 g | P(=O)(OCC)(Cl)Cl | C2H5Cl2O2P
reactant | NH4Cl | 150 mL | [NH4+].[Cl-]
solvent | CH2Cl2 | 33 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | tert-butyl((trans-4-cyanocyclohexyl)methyl)carbamate | 1.4 g, 88% | C(C)(C)(C)OC(NC[C@@H]1CC[C@H](CC1)C#N)=O | C13H22N2O2
